Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Abdominal pain, OSH transfer
 
Major Surgical or Invasive Procedure:
___ - ___ biopsy

 
History of Present Illness:
___ with PMH non-insulin dependent diabetes and SCC of ear s/p 
radiation presents with approx. 6 weeks of increasing upper 
abdominal discomfort, weight loss, and night sweats presents 
with pancreatic mass concerning for cancer.  
 Was progressively worsening and he could not sleep last night. 
Went to ___ where a CT scan showed a mass around his 
pancreas. Labs overall unremarkable. No fevers. Sent for onc 
workup. On arrival pt feels improved since ___. Mild abd 
pain. No nausea/vomiting.  
 Patient presented to ___ with 1-mo hx of intermittent 
pleuritic chest pain, sharp intermittent upper abdominal pain 
and early satiety. Patient had a CAT scan of his abdomen and 
pelvis yesterday which revealed multiple liver lesions and a 
single pancreatic mass. Patient denies vomiting, fever, chills, 
rash. Patient's primary care provider sent him to the emergency 
department for a CAT scan of the chest to evaluate for pulmonary 
embolism and a CAT scan of the brain to look for metastases, 
both of which were without abnormality. He was admitted for 
"expedited workup of cancer".  
 In the ED, initial VS were 2 97.1 72 136/72 14 98% RA .  
 Exam notable for not recorded  
 Labs showed WBC 21.8, Hgb 12.7  
 Imaging showed:  
 CT abdomen/pelvis:  
 "There is a 2.5 cm area of decreased attenuation within the 
body of the pancreas and prominence of the pancreatic duct 
within the body and tail, suspicious for a pancreatic mass with 
obstruction of the pancreatic duct. There is peripancreatic 
lymphadenopathy. The largest lymph node measures up to 2 cm in 
short axis just anterior to the inferior vena cava. There are 
approximately 2 dozen liver lesions with peripheral enhancement 
measuring up to 2 cm in size suspicious for metastatic disease. 
If tissue diagnosis needed, some of the liver lesions are 
peripheral in location and may be amenable to FNA or biopsy."  
 Received Morphine, NS  
 Transfer VS were 98.2 58 148/75 16 99% RA  
 
 On arrival to the floor, patient reports that he presented ___ 
severe pain which has been ramping up for the past several 
weeks. He describes the pain as deep and throbbing, ___ with 
movement but ___ ___enies F/C, N/V, skin changes/ 
itching, constipation/diarrhea. He does endorse ~20lbs weight 
loss since ___ and drenching night sweats. He also endorses 
urinary urgency.  
 
Past Medical History:
SCC of ear s/p radiation  
NIIDM  
 
Social History:
___
Family History:
Brother with T1DM, passed away from blood clot in neck  
Father had jaw cancer  
Mother had cytopenia requiring transfusion 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
 VS: 98.2 PO 159 / 84 L Sitting 62 18 97 RA  
 GENERAL: Pleasant, NAD, appears well but moves gingerly  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple  
 HEART: RRR, S1/S2, ___ murmur heard best at apex  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, markedly tender in epigastrium, soft  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM
======================
VS: 98.2 PO 159 / 84 L Sitting 62 18 97 RA  
GENERAL: Pleasant, NAD, appears well but moves gingerly  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple  
HEART: RRR, S1/S2, ___ murmur heard best at apex  
LUNGS: CTAB
ABDOMEN:  tender in epigastrium, soft  
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LAB RESULTS
====================
___ 10:20PM BLOOD WBC-21.8* RBC-4.48* Hgb-12.7* Hct-38.5* 
MCV-86 MCH-28.3 MCHC-33.0 RDW-12.2 RDWSD-38.9 Plt ___
___ 07:15AM BLOOD ___ PTT-24.3* ___
___ 10:20PM BLOOD Glucose-322* UreaN-15 Creat-0.8 Na-134 
K-4.2 Cl-100 HCO3-23 AnGap-15
___ 10:20PM BLOOD ALT-21 AST-12 AlkPhos-134* TotBili-0.2
___ 07:15AM BLOOD Calcium-8.4 Phos-2.4* Mg-1.9 UricAcd-2.6*

DISCHARGE LAB RESULTS
====================
___ 07:15AM BLOOD WBC-23.4* RBC-4.70 Hgb-13.2* Hct-40.4 
MCV-86 MCH-28.1 MCHC-32.7 RDW-12.3 RDWSD-38.6 Plt ___
___ 07:15AM BLOOD Glucose-266* UreaN-10 Creat-0.7 Na-136 
K-4.6 Cl-99 HCO3-26 AnGap-16
___ 07:15AM BLOOD ALT-19 AST-13 LD(LDH)-258* AlkPhos-132* 
Amylase-30 TotBili-0.5

OSH IMAGING
===========
 CT Head ___:  
 No acute abnormality  

 CTA Chest ___:  
 No acute abnormality.  

CT AP ___:  
There is a 2.5 cm area of decreased attenuation within the body 
the pancreas and prominence of the pancreatic duct within the 
body and tail, suspicious for a pancreatic mass with obstruction 
of the pancreatic duct. There is peripancreatic lymphadenopathy. 
The largest lymph node measures up to 2 cm in short axis just 
anterior to the inferior vena cava. There are approximately two 
dozen liver lesions with peripheral enhancement measuring up to 
2 cm in size suspicious for metastatic disease. If tissue 
diagnosis is needed, some of the liver lesions are peripheral in 
location and may be amenable to FNA or biopsy.  

Bone Scan ___:  
There is a nonspecific focus of mild to moderate radiotracer 
uptake involving the middle third of the sternum. Recommend 
further imaging evaluation with chest CT or sternum radiography 
series.  

STUDIES
=======
___ Liver Biopsy
Uncomplicated 18-gauge targeted liver biopsy x 1, with specimen 
sent to pathology.
 
Brief Hospital Course:
Mr. ___ is a ___ M with ___ non-insulin dependent diabetes 
and SCC of ear s/p radiation who presented with approximately 6 
weeks of increasing upper abdominal pain, weight loss, and night 
sweats, transferred from ___ with pancreatic mass with 
metastasis to liver, concerning for cancer. He underwent an 
___ biopsy of one of the liver masses on ___. He 
tolerated the procedure well. Pathology was still pending at 
time of discharge. 

#Pancreatic mass: 
#Liver masses:
Patient was transferred from ___ for expedited workup of 
concerning pancreatic mass with liver metastasis. Bone scan and 
head imaging were negative. Patient had an ___ biopsy on 
___. The pathology results were still pending at day of 
discharge. He was seen by the ___ Hematology Oncology team 
while inpatient regarding scheduling follow-up. He was given 
prescriptions for oxycodone and lorazepam at discharge.

#Leukocytosis
Patient presented with WBC to 23. Patient remained 
hemodynamically stable and afebrile. There was low concern for 
infection. Per heme/onc, metastasis to liver can cause 
leukocytosis. Per radiology review of imaging, the liver lesions 
look like metastasis, and  do not appear to be abscesses. 

#T2DM
Patient reports having hyperglycemia at home. He was maintained 
on an insulin sliding scale while inpatient and his home 
metformin was held.

TRANSITIONAL ISSUES
===================
- Patient should follow-up with ___ Heme/Onc for management of 
his malignancy. He will be contacted for an appointment. 
- F/u on pathology report of liver biopsy
- repeat CBC within 1 week of discharge

#CODE: Full (presumed) 
#CONTACT: ___ (spouse) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO BID:PRN anxiety 
RX *lorazepam 0.5 mg 1 tablet(s) by mouth twice a day Disp #*10 
Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 6 hours Disp #*20 
Tablet Refills:*0 
3.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Pancreatic mass
- Liver masses

Secondary Diagnosis:
- Type 2 Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized at ___. 

Why did you come to the hospital?
=================================
- You were transferred here from ___ because there was a 
mass in your pancreas and masses in your liver concerning for 
cancer. 

What did we do for you?
=======================
- You had a biopsy of one of the liver masses. The results were 
still pending when you were discharged. 

What do you need to do?
=======================
- It is very important that you follow-up with 
Hematology/Oncology. They should be calling you to schedule an 
appointment. If you don't hear from them within two business 
days, please call ___.
- Please call your doctor or return to the hospital if you 
develop a fever. 

It was a pleasure caring for you. We wish you the best.

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___